US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.046 mL, 0.417 mmol), 4-amino-2-methylbutan-2-ol (12.92 mg, 0.125 mmol), and BOP (55.4 mg, 0.125 mmol). This was stirred overnight and was then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 15 mL/min, 220 nM, product retention time=34.1 min) to give (R/S)-2-hydroxy-N-(3-hydroxy-3-methylbutyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (10.5 mg, 0.019 mmol, 26.9% yield): LCMS=517 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.12-8.23 (2 H, m), 7.65-7.77 (4 H, m), 7.54-7.66 (3 H, m), 5.10 (1 H, s), 3.32-3.42 (2 H, m), 1.62-1.78 (2 H, m), 1.22 (6 H, s). HPLC Peak RT=9.2 min (Analytical Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.417 mmol, 0.046 mL | CN1CCOCC1 | C5H11NO
reactant | 4-amino-2-methylbutan-2-ol | 0.125 mmol, 12.92 mg | NCCC(C)(O)C | C5H13NO
reactant | BOP | 0.125 mmol, 55.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-N-(3-hydroxy-3-methylbutyl)-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.019 mmol, 10.5 mg, 26.9% yield | OC(C(=O)NCCC(C)(C)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C25H23F3N4O5
